.suckt  three_stage_single_output_op_amp_20_6_8 ibias in1 in2 out sourceNmos sourcePmos
c1 outFirstStage out 
c2 outSecondStage out 
m1 outInputVoltageBiasXXpXX1 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m2 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos
m3 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos
m4 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos
m5 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos
m6 FirstStageYinnerTransistorStack2Load1 FirstStageYout1 sourceNmos sourceNmos nmos
m7 FirstStageYsourceTransconductance outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos
m8 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m9 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
m10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
c3 out sourceNmos 
m11 outSecondStage inputVoltageBiasXXnXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos
m12 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos
m13 outSecondStage ibias outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos
m14 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos
m15 out inputVoltageBiasXXnXX1 ThirdStageYinnerStageBias ThirdStageYinnerStageBias nmos
m16 ThirdStageYinnerStageBias inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m17 out outSecondStage sourcePmos sourcePmos pmos
m18 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m19 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m20 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos
m21 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m22 ibias ibias VoltageBiasXXpXX2Yinner VoltageBiasXXpXX2Yinner pmos
m23 VoltageBiasXXpXX2Yinner outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos
.end three_stage_single_output_op_amp_20_6_8

